US09029378B2
2-Aminoquinoline (300 mg, 2.08 mmol) was dissolved in acetonitrile. To the reaction mixture was added pyridine (0.2 mL, 2.5 mmol) and phenyl chloroformate (0.27 mL, 2.18 mmol), respectively and stirred at room temperature for 1 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure. The crude was purified by column chromatography to give phenyl quinolin-2-ylcarbamate (296 mg, 54%).

reactant | 2-Aminoquinoline | 2.08 mmol, 300 mg | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
reactant | pyridine | 2.5 mmol, 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 2.18 mmol, 0.27 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | phenyl quinolin-2-ylcarbamate | 296 mg, 54% | N1=C(C=CC2=CC=CC=C12)NC(OC1=CC=CC=C1)=O | C16H12N2O2
